US06667331B2
H. [1-(5-Bromomethyl-isoxazol-3-yl)-3-methyl-butyl]-carbamic Acid T-Butyl Ester
N-Chlorosuccinimide (5.80 g, 43.4 mmol, 1.00 equivalents), [1-(hydroxyimino-methyl)-3-methyl-butyl]-carbamic acid tert-butyl ester (10.00 g, 43.4 mmol, 1.00 equivalents) and pyridine (0.70 mL) were stirred in chloroform (70 mL) at room temperature for 1 hour. Propargyl bromide (4.83 mL, 54.3 mmol, 1.25 equivalents) was added and the reaction was heated to 45° C. Triethylamine (6.35 mL, 45.6 mmol, 1.05 equivalents) was added dropwise over 20 minutes at 45° C. The reaction was stirred for an additional 1 hour, then it was diluted with water (200 mL) and extracted with dichloromethane (2×200 mL). The combined organic extracts were washed with saturated sodium bicarbonate (2×200 mL) and brine (200 mL). The organic portion was dried over sodium sulfate. Evaporation of the solvent gave a brown residue that was chromatographed by flash chromatography on silica gel to give the title compound as a white solid (6.48 g, 43%). MS (CI) m/z 247.0 (M−99)

reactant | N-Chlorosuccinimide | 43.4 mmol, 5.80 g, 1.00 equivalents | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | [1-(hydroxyimino-methyl)-3-methyl-butyl]-carbamic acid tert-butyl ester | 43.4 mmol, 10.00 g, 1.00 equivalents | C(C)(C)(C)OC(NC(CC(C)C)C=NO)=O | C11H22N2O3
reactant | Propargyl bromide | 54.3 mmol, 4.83 mL, 1.25 equivalents | C(C#C)Br | C3H3Br
reactant | Triethylamine | 45.6 mmol, 6.35 mL, 1.05 equivalents | C(C)N(CC)CC | C6H15N
solvent | chloroform | 70 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 200 mL | O | H2O
solvent | pyridine | 0.70 mL | N1=CC=CC=C1 | C5H5N
product | [1-(5-Bromomethyl-isoxazol-3-yl)-3-methyl-butyl]-carbamic Acid T-Butyl Ester | 6.48 g, 43% | C(C)(C)(C)OC(NC(CC(C)C)C1=NOC(=C1)CBr)=O | C14H23BrN2O3
